US06166038
Preparation of 3-amino-5-(3,4-dichlorophenyl)pyrazole
3,4-Dichlorobenzoylacetonitrile (3.0 g) was dissolved in ethanol (15 ml) to which was subsequently added hydrazine monohydrate (0.67 ml) while cooling with ice. The mixture was heatedunder reflux for 5 hours and allowed to cool. Then, the solvent was distilled away under a reduced pressure. The resulting residue was recrystallized from ethyl acetate-hexane to obtain the title compound (1.72 g) as colorless crystals (melting point: 169-170° C.).

reactant | 3,4-Dichlorobenzoylacetonitrile | 3.0 g | ClC=1C=C(C(=O)CC#N)C=CC1Cl | C9H5Cl2NO
reactant | hydrazine monohydrate | 0.67 ml | O.NN
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-amino-5-(3,4-dichlorophenyl)pyrazole | 1.72 g | NC1=NNC(=C1)C1=CC(=C(C=C1)Cl)Cl | C9H7Cl2N3
